US04113842
Pure calcium 2-hydroxy-2-propanesulfonate monohydrate was prepared by reacting 40 g of calcium carbonate with 114 g of water, 86 g of acetone and excess sulfur dioxide for 3 hours at 25° C. The reaction mixture was filtered, and the white solids washed with 50 ml of acetone, then with ether, then air dried for 30 minutes and chemically analyzed. Calculated for Ca[(CH3)2C(OH)SO3 ]2 ·H2O: Ca 11.9 percent, C 21.4 percent, H 4.8 percent, S 19.1 percent; observed: Ca 12.2 percent, C 21.0 percent, H 4.3 percent, S 18.8 percent.

reactant | calcium carbonate | 40 g | C([O-])([O-])=O.[Ca+2]
reactant | water | 114 g | O | H2O
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | acetone | 86 g | CC(=O)C | C3H6O
product | calcium 2-hydroxy-2-propanesulfonate monohydrate | O.OC(C)(C)S(=O)(=O)[O-].[Ca+2].OC(C)(C)S(=O)(=O)[O-] | InChI=1S/2C3H8O4S.Ca.H2O/c2*1-3(2,4)8(5,6)7;;/h2*4H,1-2H3,(H,5,6,7);;1H2/q;;+2;/p-2
